US04585757
Lys-Lys-Pro;
Arg-Lys-Pro-Pro; or Lys-Arg-Pro-Pro,

reactant | Arg-Lys-Pro-Pro | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCCCN)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C22H40N8O5
reactant | Lys-Arg-Pro-Pro | N[C@@H](CCCCN)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C22H40N8O5
product | Lys-Lys-Pro | N[C@@H](CCCCN)C(=O)N[C@@H](CCCCN)C(=O)N1[C@H](C(=O)O)CCC1 | C17H33N5O4
